US08034812B2
Production of 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoic acid
To a solution of methyl 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoate (0.62 g, 2.5 mmol) in tetrahydrofuran (6.0 mL) were added lithium hydroxide-monohydrate (0.18 g, 4.3 mmol), methanol (2.0 mL) and water (2.0 mL), and the mixture was stirred at room temperature for 12 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with water (5.0 mL). The mixture was adjusted to pH 3 by slowly adding 1N hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure to give the title compound (0.48 g, 83%) as a white powder.

reactant | methyl 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoate | 2.5 mmol, 0.62 g | C(#N)C1(CCOCC1)C=1C=C(C(=O)OC)C=CC1 | C14H15NO3
reactant | lithium hydroxide-monohydrate | 4.3 mmol, 0.18 g | O.[OH-].[Li+]
reactant | methanol | 2.0 mL | CO | CH4O
reactant | water | 2.0 mL | O | H2O
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 3-(4-cyanotetrahydro-2H-pyran-4-yl)benzoic acid | 0.48 g, 83% | C(#N)C1(CCOCC1)C=1C=C(C(=O)O)C=CC1 | C13H13NO3
